US07547710B2
To a solution of tert-butyl [4-(2-fluorophenyl)-6-hydroxy-2-isobutylquinolin-3-yl]methylcarbamate (0.20 g, 0.47 mmol) and 2-chloropropionamide (0.076 g, 0.71 mmol) in N,N-dimethylformamide (20 ml) was added potassium carbonate (0.098 g, 0.71 mmol), and the mixture was stirred at 75° C. for 24 hrs. The reaction mixture was partitioned between ethyl acetate (100 ml) and 0.1N hydrochloric acid (150 ml). The aqueous layer was separated and extracted with ethyl acetate (100 ml). The organic layer and the extract were combined and the mixture was washed with saturated brine (100 ml) and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography and crystallized from diisopropyl ether-ethyl acetate to give tert-butyl [6-(2-amino-1-methyl-2-oxoethoxy)-4-(2-fluorophenyl)-2-isobutylquinolin-3-yl]methylcarbamate (0.15 g, yield 65%) as pale-yellow crystals.

reactant | tert-butyl [4-(2-fluorophenyl)-6-hydroxy-2-isobutylquinolin-3-yl]methylcarbamate | 0.47 mmol, 0.20 g | FC1=C(C=CC=C1)C1=C(C(=NC2=CC=C(C=C12)O)CC(C)C)CNC(OC(C)(C)C)=O | C25H29FN2O3
reactant | 2-chloropropionamide | 0.71 mmol, 0.076 g | ClC(C(=O)N)C | C3H6ClNO
reactant | potassium carbonate | 0.71 mmol, 0.098 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-butyl [6-(2-amino-1-methyl-2-oxoethoxy)-4-(2-fluorophenyl)-2-isobutylquinolin-3-yl]methylcarbamate | 0.15 g, yield 65% | NC(C(OC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=C(C=CC=C1)F)C)=O | C28H34FN3O4
